US09169254B2
A solution of propanethiol (0.609 ml, 6.72 mmol) in anhydrous THF (10 ml) was cooled to −10° C. in a nitrogen atmosphere. 2 M nBuLi (4.03 ml, 8.07 mmol) was added dropwise and the mixture was then stirred for 10 minutes. A solution of ethyl 6-bromohexanoate in anhydrous THF (5 ml) was then added and the mixture was stirred for 40 minutes. The reaction mixture was quenched by adding water and then extracted with ethyl acetate. The organic layer was washed with water and saturated brine and dried over sodium sulfate. The organic layer was concentrated under reduced pressure, and the resulting residue was then purified by silica gel column chromatography (hexane:ethyl acetate=15:1) to give ethyl 6-(propylthio)hexanoate as a colorless oily substance (1.46 g, 100%).

reactant | propanethiol | 6.72 mmol, 0.609 ml | C(CC)S | C3H8S
reactant | nBuLi | 8.07 mmol, 2 M, 4.03 ml | [Li]CCCC
reactant | ethyl 6-bromohexanoate | BrCCCCCC(=O)OCC | C8H15BrO2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | ethyl 6-(propylthio)hexanoate | C(CC)SCCCCCC(=O)OCC | C11H22O2S
